US03963740
By condensation of 1,7-dichloro-4-methyl-9-thioxanthenone with 2-(diethylamino)ethyl hydrazine was obtained 9-chloro-2-(2-(diethylamino)ethyl)-5-methyl-2H-(1)benzothiopyrano[4,3,2-cd]indazole. To 0.13 g. of this base in acetone (3 ml.) was added 30% aqueous hydrogen peroxide (0.2 ml.). After 18 hours at room temperature the solution was evaporated to dryness under reduced pressure and the residue crystallized from acetone to give 9-chloro-2-(2-diethylamino)ethyl)-5-methyl-2H(1)-benzothiopyrano[4,3,2-cd]indazole N-oxide monohydrate, m.p. 134° - 135° (decomp.).

reactant | 1,7-dichloro-4-methyl-9-thioxanthenone | ClC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)Cl)C | C14H8Cl2OS
reactant | 2-(diethylamino)ethyl hydrazine | C(C)N(CCNN)CC | C6H17N3
product | 9-chloro-2-(2-(diethylamino)ethyl)-5-methyl-2H-(1)benzothiopyrano[4,3,2-cd]indazole | ClC=1C=CC2=C(C1)C1=NN(C=3C=CC(=C(C13)S2)C)CCN(CC)CC | C20H22ClN3S
